US07067529B2
To a solution of 6-acetoxy-1-(3-ethoxy-benzyl)-4-formyl-7-methoxy-1H-isoquinoline-2-carboxylic acid ethyl ester (1.0 g, 2.20 mmol) in methanol (50 mL) was added powdered potassium hydroxide (741 mg, 11.1 mmol) at room temperature. The mixture was stirred at room temperature for 14 hrs. The solvent was evaporated and the residue was diluted with water (50 mL). The aqueous phase was extracted with ethyl acetate (2×50 mL). The combined extracts were washed with saturated aqueous sodium chloride solution (50 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford 6-hydroxy-7-methoxy-1-(3-ethoxy-benzyl)-1,2-dihydro-isoquinoline-4-carbaldehyde (660 mg, 88% yield). The crude product was used without further purification.

reactant | 6-acetoxy-1-(3-ethoxy-benzyl)-4-formyl-7-methoxy-1H-isoquinoline-2-carboxylic acid ethyl ester | 2.20 mmol, 1.0 g | C(C)OC(=O)N1C(C2=CC(=C(C=C2C(=C1)C=O)OC(C)=O)OC)CC1=CC(=CC=C1)OCC | C25H27NO7
reactant | potassium hydroxide | 11.1 mmol, 741 mg | [OH-].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 6-hydroxy-7-methoxy-1-(3-ethoxy-benzyl)-1,2-dihydro-isoquinoline-4-carbaldehyde | 660 mg, 88% yield | OC=1C=C2C(=CNC(C2=CC1OC)CC1=CC(=CC=C1)OCC)C=O | C20H21NO4
